US07262212B2
To a mixture of 3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-5-ylmethyl (S)-4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate (300 mg, 0.62 mmol) and DMF (3 ml), sodium hydride (27 mg, 0.68 mmol) was added followed by stirring for 30 minutes with cooling on ice-bath. To the reaction mixture, methyl iodide (97 mg, 0.68 mmol) was added followed by stirring at room temperature for 2 hours. To the reaction mixture, water was added, and the mixture was extracted with ethyl acetate twice. The organic phases were combined, washed with water twice and a saturated saline solution, dried over sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate) to afford 1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-5-ylmethyl (S)-4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate (140 mg, 45%) as a light yellow powder.

reactant | 3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-5-ylmethyl (S)-4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate | 0.62 mmol, 300 mg | C[C@@]1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C(=O)OCC=2C=C1C(C(NC1=CC2)=O)(C)C | C23H28N6O6
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 0.68 mmol, 27 mg | [H-].[Na+]
reactant | methyl iodide | 0.68 mmol, 97 mg | CI | CH3I
solvent | water | O | H2O
product | 1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-5-ylmethyl (S)-4-(2-methyl-6-nitro-2,3-dihydroimidazo[2,1-b]oxazol-2-ylmethyl)piperazine-1-carboxylate | 140 mg, 45% | C[C@@]1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C(=O)OCC=2C=C1C(C(N(C1=CC2)C)=O)(C)C | C24H30N6O6
